US07056935B2
Benzyl (2S)-1-(3,3-dimethyl-1,2-dioxopentyl)-2-pyrrolidinecarboxylate.
A mixture of (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid (500 mg; 2.07 mmol), benzyl alcohol (335 mg; 3.10 mmol), dicyclohexylcarbodiimide (683 mg; 3.31 mmol), 4-dimethylaminopyridine (84 mg; 0.69 mmol) and camphorsulphonic acid (160 mg; 0.69 mmol) in methylene chloride (30 mL) was stirred overnight under a nitrogen atmosphere. The reaction mixture was filtered through Celite to remove solids and concentrated in vacuo, and the crude material was purified on a flash column (25% ethyl acetate in hexane) to obtain 680 mg of the product as a colorless oil. 1H NMR (CDCl3; 300 MHz) δ 0.85 (t, 3H); 1.19 (s, 3H); 1.22 (s, 3H); 1.61–2.25 (m, 6H); 3.46–3.56 (m, 2H); 4.58 (dm, 1H); 5.18 (d, 2H, 7.35 (br, 5H).

reactant | (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid | 2.07 mmol, 500 mg | O=C(C(C(CC)(C)C)=O)N1[C@@H](CCC1)C(=O)O | C12H19NO4
reactant | benzyl alcohol | 3.10 mmol, 335 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 3.31 mmol, 683 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | camphorsulphonic acid | 0.69 mmol, 160 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
catalyst | 4-dimethylaminopyridine | 0.69 mmol, 84 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Benzyl (2S)-1-(3,3-dimethyl-1,2-dioxopentyl)-2-pyrrolidinecarboxylate | 680 mg | CC(C(C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)=O)(CC)C | C19H25NO4
